US06930120B2
(S)-3-(4-hydroxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester were reacted, as described in Example 1, Step D, to provide (S)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]phenyl}-2-phenoxypropionic acid ethyl ester, shown below, as a colorless oil (48%). 1H NMR (300 MHz, CDCl3): δ 7.59 (d, 1H), 7.37 (d, 1H), 7.24 (t, 2H), 7.13 (d, 2H), 7.09 (t, 1H), 6.96 (t, 1H), 6.83 (d, 2H), 6.82 (d, 2H), 4.21 (t, 2H), 4.19 (q, 2H), 3.26 (d, 1H), 3.12 (d, 1H), 2.95 (t, 2H), 2.35 (s, 3H), 1.39 (s, 3H), 1.21 (t, 3H). MS [EI+] 492 (M+H)+, [EI−] 490 (M−H)+.

reactant | (S)-3-(4-hydroxyphenyl)-2-methyl-2-phenoxypropionic acid ethyl ester | C(C)OC([C@](CC1=CC=C(C=C1)O)(OC1=CC=CC=C1)C)=O | C18H20O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | (S)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]phenyl}-2-phenoxypropionic acid ethyl ester | C(C)OC([C@](CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C=1SC=CC1)(OC1=CC=CC=C1)C)=O | C28H29NO5S
